US06251948B1
b. N-(m-Ethylphenyl)-N-ethlcyanamide
A suspension of m-ethylphenylcyanamide (2.26 g, 15.45 mmol) and sodium hydride (820 mg, 34.2 mmol, pre-washed thrice with hexane) in anhydrous THF (20 ml) was heated at 80-85° C. for 2.5 hours. After it was allowed to cool to room temperature ethyl bromide (4.66 g, 42.76 mmol) was added and continued stirring at room temperature for 6 hours. Methanol (20 ml) followed by water (40 ml) were added and then extracted with dichloromethane (3×25 ml). Concentration of the organic layer followed by quick flash chromatography afforded the title compound (2.36 mg, 88%) as a light yellow liquid:

reactant | m-ethylphenylcyanamide | 15.45 mmol, 2.26 g | C(C)C=1C=C(C=CC1)NC#N | C9H10N2
reactant | sodium hydride | 34.2 mmol, 820 mg | [H-].[Na+]
reactant | ethyl bromide | 42.76 mmol, 4.66 g | C(C)Br | C2H5Br
reactant | Methanol | 20 ml | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 40 ml | O | H2O
product | N-(m-Ethylphenyl)-N-ethlcyanamide | 2.36 mg, 88% | C(C)C=1C=C(C=CC1)N(C#N)CC | C11H14N2
